### PR TITLE
Module Signatures and Models of Modules Signatures

### PR DESCRIPTION
**Pull request by hugo-s29**
This PR is a follow-up to #2079, as part of my internship with @benediktahrens. It contains definitions and some results regarding module signatures and models of such signatures. Let me know if the code/documentation could be improved, I am open to any suggestion.

I have also renamed `Modules.v` to `RModules.v` (and similarly for `TotalCategoryOfRModules.v`), as discussed in #2079.
Also, `TotalCategoryOfRModules.v` is now using a displayed category.

It was discussed in #2079 to compare modules over a monoid to the modules over a monad. However, for monads, ***left***-modules are defined, while for monoids, ***right***-modules are defined, so the correspondance is awkward and requires swapping the order of the arguments for the monoidal product. I did not prove the correspondance with the "swapped" version, should I? Before noticing that issue, I added an equivalence of categories for the monoids/monad correspondance. 

Module signatures are (displayed) sections of the forgertful functor from TotalCategoryOfRModules to Monoids.
Models (of a model signature $`\Sigma`$) are monoids $`R`$ with a (right) module morphism $`\Sigma(R) \to \mathsf{trivial\_module}(R)`$ . I have added some results about models, e.g., initial models are fixpoints of the $`I + \Sigma(-)`$ funtor, and a result about modularity.

I added a proof that the category of right modules inherits its limits from C (in #2079, it was colimits). I think it should be sufficient to prove that module signatures also inherit their (co)limits from C. I tried proving these results for arbitrary displayed sections, but I was sadly not successful.

In the file about models, I had to use a lemma like `maponpaths` but for dependant functions (`maponpaths_dep`, in the file). It probably exists somewhere else in unimath but I was not able to find it. I will happily change the code to use some already existing lemma.

Also, the file about models is quite large, and if needed, it could be split in two files (definitions + the fixpoint result in one file and the total category and modularity in another). Let me know if I should.

### CODE REVIEW

**Comment by hugo-s29** [comment]
I think when I synced my fork of UniMath, something went wrong and it re-added all the commits from my earlier pull-request.

File: UniMath/CategoryTheory/.package/files [hunk 1]
```diff
@@ -799,13 +801,3 @@ MarkovCategories/State.v
 MarkovCategories/ProbabilitySpaces.v
 MarkovCategories/Couplings.v
 MarkovCategories/RelativeProduct.v
-MarkovCategories/AlternativeDefinitions/Stratified.v
```
Comment (nmvdw) [inline UniMath/CategoryTheory/.package/files:819]: These files are removed, but they should not be. For this reason, the checks are failing. Can you add these back?

Comment (hugo-s29) [reply UniMath/CategoryTheory/.package/files:819]: Sure thing, I've added them back

Comment (hugo-s29) [reply UniMath/CategoryTheory/.package/files:819]: The sanity checks is failing again and in the log, it mentions that "TotalCategoriesOfModules.v" was not found (and also "Modules.v"). However this was the file before it was renamed to "TotalCategoriesOfRModules.v". I looked in the code if "TotalCategoriesOfModules" was mentioned somewhere but did not find anything. Did I miss something?

Comment (hugo-s29) [reply UniMath/CategoryTheory/.package/files:819]: The merge/sync that duplicated my commits also re-added the files before they were renamed. Sorry about that. The sanity check is now successful

File: UniMath/CategoryTheory/Limits/Graphs/Limits.v [hunk 2]
```diff
@@ -838,6 +882,7 @@ use (uniqueExists (limUnivProp CC _ _)).
 - simpl; now apply H.
 Qed.
 
+
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Limits/Graphs/Limits.v:885]:
```suggestion
```
I think this can be removed?

File: UniMath/CategoryTheory/Monoidal/Examples/MonadsAsMonoidsElementary.v [hunk 3]
```diff
@@ -26,9 +30,15 @@ Section FixACategory.
 
   Context {C : category}.
 
+  Let EndC : monoidal_cat := _ ,, monendocat_monoidal C.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Examples/MonadsAsMonoidsElementary.v]: Is there an identifier for this `monoidal_cat`? It would be useful to have one, because it is a common construction.

File: UniMath/CategoryTheory/Monoidal/Examples/MonadsAsMonoidsElementary.v [hunk 4]
```diff
@@ -26,9 +30,15 @@ Section FixACategory.
...
+  Let Monoids := category_of_monoids_in_monoidal_cat EndC.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Examples/MonadsAsMonoidsElementary.v]: Can you add the type declaration for both `Monoids` and `Monads`?

File: UniMath/CategoryTheory/Monoidal/Examples/MonadsAsMonoidsElementary.v [hunk 5]
```diff
@@ -49,36 +59,214 @@ Section MonoidToMonad.
...
   Qed.
 
-  Definition monoid_to_monad_CAT : Monad C
+  Definition monoid_to_monad_CAT : Monads
     := _ ,, _ ,, monoid_to_disp_Monad_laws_CAT.
 
+End OnObjects.
+
+  Lemma monoid_to_monad_map_is_monad_mor {M M' : Monoids} (f : M --> M')
+    : disp_Monad_Mor_laws (monoid_to_disp_Monad_data_CAT M)
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Examples/MonadsAsMonoidsElementary.v]: I am a bit confused here: why is there `monoid_to_disp_Monad_data_CAT`, which should be `Monad_data` rather than something of type `Monad`?

The indenting on the next line could also be improved

File: UniMath/CategoryTheory/Monoidal/Examples/MonadsAsMonoidsElementary.v [hunk 6]
```diff
@@ -49,36 +59,214 @@ Section MonoidToMonad.
...
+      (monoid_to_disp_Monad_data_CAT M') (pr1 f).
+  Proof.
+    induction f as [f [H1 H2]]; split; intro A; cbn in f, H1, H2 |- *.
+    - etrans.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Examples/MonadsAsMonoidsElementary.v]: It would be better to use `{ }` here to focus on the goal

File: UniMath/CategoryTheory/Monoidal/Examples/MonadsAsMonoidsElementary.v [hunk 7]
```diff
@@ -49,36 +59,214 @@ Section MonoidToMonad.
...
+    split.
+    - intro M.
+      use invmap; [|use path_sigma_hprop|easy].
+      use isaprop_disp_Monad_Mor_laws.
+    - intros M1 M2 M3 f g.
+      use invmap; [|use path_sigma_hprop|easy].
+      use isaprop_disp_Monad_Mor_laws.
+  Qed.
+
+
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Examples/MonadsAsMonoidsElementary.v]:
```suggestion
```

File: UniMath/CategoryTheory/Monoidal/Examples/MonadsAsMonoidsElementary.v [hunk 8]
```diff
@@ -49,36 +59,214 @@ Section MonoidToMonad.
...
+  Lemma monad_to_monoid_CAT_laws :  monoid_laws EndC monad_to_monoid_CAT_data.
   Proof.
     split3; apply (nat_trans_eq C); intro c; cbn.
     - apply Monad_law2.
     - apply Monad_law1.
     - rewrite id_left. apply pathsinv0, Monad_law3.
   Qed.
 
-  Definition monad_to_monoid_CAT_disp : monoid (monendocat_monoidal C) (M : C ⟶ C)
+  Definition monad_to_monoid_CAT_disp : monoid EndC (pr1 M : C ⟶ C)
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Examples/MonadsAsMonoidsElementary.v]: Why do you need to use both `pr1` and `: C ⟶ C`? Could one be removed? Would it be possible to use an accessor as well?

File: UniMath/CategoryTheory/Monoidal/Examples/MonadsAsMonoidsElementary.v [hunk 9]
```diff
@@ -49,36 +59,214 @@ Section MonoidToMonad.
...
+  Definition monad_to_monoid_CAT : Monoids
     := _,,monad_to_monoid_CAT_disp.
 
+End OnObjects.
+
+  Lemma monad_to_monoid_map_is_monoid_mor {M M' : Monads} (f : M --> M')
+    : is_monoid_mor _ (monad_to_monoid_CAT_disp M) (monad_to_monoid_CAT_disp M') (pr1 f).
+  Proof.
+    induction f as [f [H1 H2]]; split.
+    - use invmap; [|use path_sigma_hprop|].
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Examples/MonadsAsMonoidsElementary.v:145]: I find it a bit difficult to read this proof, because I feel that there are multiple open goals without focussing.

File: UniMath/CategoryTheory/Monoidal/Examples/MonadsAsMonoidsElementary.v [hunk 10]
```diff
@@ -49,36 +59,214 @@ Section MonoidToMonad.
...
+      use isaprop_is_nat_trans; use homset_property.
+      use funextsec; intro A; cbn.
+      etrans; cycle 1.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Examples/MonadsAsMonoidsElementary.v]: What does `cycle 1` do?

File: UniMath/CategoryTheory/Monoidal/Examples/MonadsAsMonoidsElementary.v [hunk 11]
```diff
@@ -49,36 +59,214 @@ Section MonoidToMonad.
...
+  use (total2_paths2_f (idpath _)).
+  use invmap; [|use path_sigma_hprop|easy].
+  use isaprop_disp_Monad_laws.
+Qed.
+
+Definition adjunction_monad_monoid 
+  : adjunction_data Monads Monoids.
+Proof.
+  use (make_adjunction_data monad_to_monoid_functor monoid_to_monad_functor);
+  use make_nat_trans.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Examples/MonadsAsMonoidsElementary.v]: It might be good to make a separate definition for this natural transformation. Perhaps it might also be nice to make separate definitions for the data and the laws.

File: UniMath/CategoryTheory/Monoidal/Examples/MonadsAsMonoidsElementary.v [hunk 12]
```diff
@@ -49,36 +59,214 @@ Section MonoidToMonad.
...
+      [use isaprop_is_nat_trans; use homset_property|];
+      use funextsec; intro A; cbn;
+      now rewrite id_left, id_right
+    ).
+Defined.
+
+Lemma adjunction_monad_monoid_equiv : forms_equivalence adjunction_monad_monoid.
+Proof.
+  use make_forms_equivalence.
+  - intro M; use Isos.make_is_z_isomorphism; [|use Isos.make_is_inverse_in_precat].
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/Examples/MonadsAsMonoidsElementary.v]: What about importing the file `Isos`?

File: UniMath/CategoryTheory/Monoidal/ModuleSignatures.v [hunk 13]
```diff
@@ -0,0 +1,189 @@
...
+  Lemma signature_evaluation_is_functor
+    : is_functor signature_evaluation_data.
+  Proof.
+    split.
+    - intro Σ; use invmap; [|use path_sigma_hprop|].
+      use isaprop_is_module_mor.
+      easy.
+    - intros Σ Σ' Σ'' f g; use invmap; [|use path_sigma_hprop|].
+      use isaprop_is_module_mor.
+      cbn; unfold Core.mor_disp; cbn.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/ModuleSignatures.v]: What about importing `DisplayedCats.Core` so that you do not need to qualify `mor_disp`? Then it might also not be needed to unfold `mor_disp`, but I am not sure

File: UniMath/CategoryTheory/Monoidal/RModules.v [hunk 14]
```diff
@@ -58,10 +58,10 @@ Section Modules.
   Coercion module_object : module_subst >-> ob.
 
   Definition module_laws_assoc {M : C} (p : module_subst M) : UU
-    := α^{m}_{M,R,R} · (M ⊗l μ) · p = p ⊗r R · p.
+    := α^{C}_{M,R,R} · (M ⊗l μ) · p = p ⊗r R · p.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/RModules.v:61]: I am wondering: there also is `mon_lassociator` and `mon_rassociator` for `monoidal_cats` (https://github.com/UniMath/UniMath/blob/master/UniMath/CategoryTheory/Monoidal/Categories.v#L1614), which can be more convenient to use. Are those usable here?

File: UniMath/CategoryTheory/Monoidal/TotalCategoriesOfRModules.v [hunk 15]
```diff
@@ -0,0 +1,228 @@
+(***************************************************************************
+
+ Total categories of right modules
+
+ In this file, the total category of right modules in some fixed monoidal 
+ category C. Objects are pairs (R, M) where R is a monoid in C and M is
+ a right module over R.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/TotalCategoriesOfRModules.v:7]: Can you add a table of contents for this file? I do not see the connection between the header (which is about a total category) and the content (which is about pullback functors)

File: UniMath/CategoryTheory/Monoidal/ModelsOfModuleSignature.v [hunk 16]
```diff
@@ -0,0 +1,943 @@
...
+  Local Definition arrow_from_prod_sum {X Y Z : C}
+    : (X ++ Y) ⊗ Z --> (X ⊗ Z ++ Y ⊗ Z)
+    := BinCoproductArrow 
+      (make_BinCoproduct _ _ _ _ _ _ (Hpres _ _ _ _ _ _ iscopr)) 
+      inl inr.
+
+  Local Lemma arrow_from_prod_sum_inl {X Y Z : C}
+    : inl ⊗r Z · @arrow_from_prod_sum X Y Z = inl.
+  Proof.
+    use (BinCoproductIn1Commutes _ _ _ (make_BinCoproduct _ _ _ _ _ _ (Hpres _ _ _ _ _ _ iscopr))).
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/ModelsOfModuleSignature.v]: It might be good to add an identifier to prevent having to write `make_BinCoproduct _ _ _ _ _ _ (Hpres _ _ _ _ _ _ iscopr))`. It can either be globally accessible (in the file `Preservation.v`) or as a local statement in this section

File: UniMath/CategoryTheory/Monoidal/ModelsOfModuleSignature.v [hunk 17]
```diff
@@ -0,0 +1,943 @@
...
+    : (X ++ Y) ⊗l inl · @arrow_from_prod_sum X Y (Z ++ W) 
+    = arrow_from_prod_sum · BinCoproductOfArrows _ _ _ (_ ⊗l inl) (_ ⊗l inl). 
+  Proof.
+    use (
+      BinCoproductArrowsEq _ _ _
+      (make_BinCoproduct _ _ _ _ _ _ (Hpres _ _ _ _ _ _ iscopr))
+      (X ⊗ (Z ++ W) ++ Y ⊗ (Z ++ W))
+    ); cbn.
+    - etrans; etrans; try rewrite assoc; swap 3 4.
+      + use (maponpaths (λ x, x · _)); [shelve|].
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/ModelsOfModuleSignature.v]: Why do you use `shelve` here? What about using `refine` instead of `use`?

File: UniMath/CategoryTheory/Monoidal/ModelsOfModuleSignature.v [hunk 18]
```diff
@@ -0,0 +1,943 @@
...
+
+    Local Lemma f_inr : inr · f = rM.
+    Proof.
+      use BinCoproductIn2Commutes.
+    Qed.
+
+
+    (* Three laws for M' to be a monoid *)
+
+    Local Lemma monoid_law_1 : η ⊗r M' · μ = lu^{ C }_{ M'}.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/ModelsOfModuleSignature.v]: What about calling it something like `μ_lunit`? That might be more informative

File: UniMath/CategoryTheory/Monoidal/ModelsOfModuleSignature.v [hunk 19]
```diff
@@ -0,0 +1,943 @@
...
+    Qed.
+
+    Local Lemma monoid_law_3 : α^{ C }_{ M', M', M'} · M' ⊗l μ · μ = μ ⊗r M' · μ.
+    Proof.
+      use (
+          BinCoproductArrowsEq _ _ _ 
+          (make_BinCoproduct _ _ _ _ _ _ (Hpres _ _ _ _ _ _ (Hpres _ _ _ _ _ _ iscopr)))
+          M'
+      ); cbn; repeat rewrite assoc.
+      - symmetry; etrans; [|symmetry;etrans;[etrans|]]; etrans.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/ModelsOfModuleSignature.v]: Here tactics are chained in such a way that the code becomes more compact, but I find it harder to read. I am fine with keeping it as is, but what do you think of chaining less here with the costs of using more lines?

File: UniMath/CategoryTheory/Monoidal/ModelsOfModuleSignature.v [hunk 20]
```diff
@@ -0,0 +1,943 @@
...
+        + rewrite id_left; use f_inl.
+        + use (maponpaths (λ x, x · _)); [|symmetry; use f_inl].
+        + symmetry; use (pr221 h).
+      - rewrite assoc, assoc; etrans; etrans; swap 3 4.
+        + use (maponpaths (λ x, x · _)); [|use BinCoproductOfArrowsIn2].
+        + rewrite <- assoc; use maponpaths; [|use f_inr].
+        + use (maponpaths (λ x, x · _)); [|symmetry; use f_inr].
+        + use (!pr2 h).
+    Qed.
+
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/ModelsOfModuleSignature.v:477]:
```suggestion
```
Less new lines can be used

File: UniMath/CategoryTheory/Monoidal/ModelsOfModuleSignature.v [hunk 21]
```diff
@@ -0,0 +1,943 @@
...
+          simpl; rewrite transportf_total2;
+          simpl; rewrite transportf_const.
+          simpl; use (maponpaths pr1 (InitialArrowUnique HΣ₁₂ (pr1 Rr ,, _) (pr12 u ,, _))).
+          simpl; etrans; [use (pr22 u)|].
+          use (maponpaths (λ x, _ (pr1 x · _))).
+          exact (
+            maponpaths (λ x, pr1 x (pr1 Rr)) 
+            (PushoutArrowUnique _ _ _ _ _ (isPushout_Pushout H_pushout) _ _ _ (maponpaths pr1 H) _ (maponpaths pr1 H') (maponpaths pr1 H''))
+          ).
+  Qed.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/ModelsOfModuleSignature.v]: I am wondering whether `Qed` is the best choice here. The universal property of pushouts contains data, namely the morphism that comes from the universal property, and now this morphisms cannot be computed. Is this behaviour intended/desirable?

**Review by nmvdw — APPROVED** [review]
Thank you for your contribution! Overall, I think it looks good, but I do have several comments.

File: UniMath/CategoryTheory/Monoidal/Examples/MonadsAsMonoidsElementary.v (hunk 3 above)
Comment (hugo-s29) [reply UniMath/CategoryTheory/Monoidal/Examples/MonadsAsMonoidsElementary.v]: I looked for it but could not find it. The file `Monoidal/Examples/EndofunctorsMonoidalElementary.v` has a proof that `[C, C]` is monoidal but it doesn't define the `monoidal_cat` for `[C, C]`.
I can add this definition as `monendocat_monoidal_cat` in the "Monoidal/Examples/EndofunctorsMonoidalElementary.v" if you want.

File: UniMath/CategoryTheory/Monoidal/Examples/MonadsAsMonoidsElementary.v (hunk 5 above)
Comment (hugo-s29) [reply UniMath/CategoryTheory/Monoidal/Examples/MonadsAsMonoidsElementary.v]: The type of `disp_Monad_Mor_laws` actually uses arguments of type `disp_Monad_data` instead of `Monad`, and for now, there is no coercion from `Monad` to `disp_Monad_data`.

Image

File: UniMath/CategoryTheory/Monoidal/Examples/MonadsAsMonoidsElementary.v (hunk 8 above)
Comment (hugo-s29) [reply UniMath/CategoryTheory/Monoidal/Examples/MonadsAsMonoidsElementary.v]: There is a coercion from `Monad` to `C ⟶ C` so the `: C ⟶ C` that was there before was forcing this coercion. However, switching to the category of monads does not that coercion to take place anymore as it now has an object of type `ob category_Monad`, I think (even though `Monad` is defined as `ob category_Monad`).
I switched to using `functor_from_Monad` directly.

File: UniMath/CategoryTheory/Monoidal/Examples/MonadsAsMonoidsElementary.v (hunk 10 above)
Comment (hugo-s29) [reply UniMath/CategoryTheory/Monoidal/Examples/MonadsAsMonoidsElementary.v]: Here, it's equivalent to `swap 1 2` but in general it rotates the order of the goals (the first goal is moved to be last). I switched to `swap`

File: UniMath/CategoryTheory/Monoidal/ModelsOfModuleSignature.v (hunk 17 above)
Comment (hugo-s29) [reply UniMath/CategoryTheory/Monoidal/ModelsOfModuleSignature.v]: Thank you for suggesting `refine`.
I was using `shelve` as `use (maponpaths f)` to prove `f x = ?` will ask for the element `y` when the right-hand side is not yet known. 
I didn't know `refine` does not add the extra goal that `use` was adding.
I used that trick quite a few times in my earlier PR, but now I will change those instances to use `refine` instead

File: UniMath/CategoryTheory/Monoidal/Examples/MonadsAsMonoidsElementary.v (hunk 3 above)
Comment (nmvdw) [reply UniMath/CategoryTheory/Monoidal/Examples/MonadsAsMonoidsElementary.v]: Yes, it would be good to add this

File: UniMath/CategoryTheory/Monoidal/ModuleSignatures.v (hunk 13 above)
Comment (hugo-s29) [reply UniMath/CategoryTheory/Monoidal/ModuleSignatures.v]: The `DisplayedCats.Core` was already imported so I don't know why I added the `Core.` prefix. I tried removing the unfolding but it looks like it is necessary for `rewrite transportf_total2` to be successful.

File: UniMath/CategoryTheory/Monoidal/RModules.v (hunk 14 above)
Comment (hugo-s29) [reply UniMath/CategoryTheory/Monoidal/RModules.v:61]: Yes, I think using `mon_lassociator` (and others) would work here, but I think it wouldn't shorten/simplify the proofs by a lot (for this file, at least).

File: UniMath/CategoryTheory/Monoidal/ModelsOfModuleSignature.v (hunk 21 above)
Comment (hugo-s29) [reply UniMath/CategoryTheory/Monoidal/ModelsOfModuleSignature.v]: I think it might be fine to use `Qed` here as `isPushout` is a proposition. Is it useful to get the exact construction used for this morphism? It should not matter too much as that morphism is unique.

I can extract the "center" in a definition and keep the rest in an opaque lemma, if you prefer. 
In `RModules.v`, I also used `Qed` for `isColimCocone` and `isLimCone` so I'll have to change those too.

Comment (nmvdw) [reply UniMath/CategoryTheory/Monoidal/ModelsOfModuleSignature.v]: It is indeed a proposition, and this morphism is determind uniquely. However, there might be certain cases where it might be convenient that one can calculate the center of contraction. I do not know whether it is the case for this definition, but it should be thought about. Specifically, do you think there will be cases where one uses this pushout square and has to calculate this morphism?

**Comment by nmvdw** [comment]
Tell me when I should look at the code again

File: UniMath/CategoryTheory/Monoidal/ModelsOfModuleSignature.v (hunk 21 above)
Comment (hugo-s29) [reply UniMath/CategoryTheory/Monoidal/ModelsOfModuleSignature.v]: I don't really know. I think you should be able to recover the construction by looking at each component of the morphism.
Just in case it may be useful later on, I made the construction of the induced morphism non-opaque, and kept the "uniqueness" part opaque.

Comment (benediktahrens) [reply UniMath/CategoryTheory/Monoidal/ModelsOfModuleSignature.v]: > I can extract the "center" in a definition and keep the rest in an opaque lemma, if you prefer.  In RModules.v, I also used Qed for isColimCocone and isLimCone so I'll have to change those too.

We usually keep the construction of the morphism transparent, and only make the proofs of the equations opaque. I would suggest to follow that convention.

**Comment by hugo-s29** [comment]
I think I have finished applying your suggestions, so you should be able to read.
There were a lot of changes due to the switch from `use maponpaths` to `refine`.
Let me know if there is anything else to improve.

And thanks a lot for all your suggestions, by the way.

File: UniMath/CategoryTheory/Monoidal/ModelsOfModuleSignature.v (hunk 21 above)
Comment (hugo-s29) [reply UniMath/CategoryTheory/Monoidal/ModelsOfModuleSignature.v]: > > I can extract the "center" in a definition and keep the rest in an opaque lemma, if you prefer.  In RModules.v, I also used Qed for isColimCocone and isLimCone so I'll have to change those too.
> 
> We usually keep the construction of the morphism transparent, and only make the proofs of the equations opaque. I would suggest to follow that convention.

Okay, in that case, I should also revisit the (co)-limits in RModules to make the morphism transparent.

**Review by nmvdw — APPROVED** [review]

**Comment by nmvdw** [comment]
> I think I have finished applying your suggestions, so you should be able to read. There were a lot of changes due to the switch from `use maponpaths` to `refine`. Let me know if there is anything else to improve.
> 
> And thanks a lot for all your suggestions, by the way.

Looks good. Are you also planning to make changes regarding "Okay, in that case, I should also revisit the (co)-limits in RModules to make the morphism transparent."?

**Comment by hugo-s29** [comment]
> Looks good. Are you also planning to make changes regarding "Okay, in that case, I should also revisit the (co)-limits in RModules to make the morphism transparent."?

Yes and I already made the changes earlier today, it should be part of the "[Non-opaque isLimCone and isColimCocone for RModules](https://github.com/UniMath/UniMath/pull/2085/commits/fe5200f4899452d6180f47cb00e3202379f90b1d)" commit (the latest one in this PR).

**Comment by nmvdw** [comment]
> > Looks good. Are you also planning to make changes regarding "Okay, in that case, I should also revisit the (co)-limits in RModules to make the morphism transparent."?
> 
> Yes and I already made the changes earlier today, it should be part of the "[Non-opaque isLimCone and isColimCocone for RModules](https://github.com/UniMath/UniMath/pull/2085/commits/fe5200f4899452d6180f47cb00e3202379f90b1d)" commit (the latest one in this PR).

Nice. Then it can be merged
